US05859051
Step F: 3-Chloro-4-(3-(3-phenyl-7-isobutyl-2H-benzofuran-6-yloxy)butyloxy)-phenyl acetic acid
A mixture of Methyl-3-Chloro-4(3-(3-phenyl-7-isobutyl-(2H-benzofuran-6-yloxy)butyloxy)-phenyl acetate (328 mg, 0.58 mmoles), hydroxylamine hydrochloride (202 mg, 2.9 mmoles), anhydrous sodium acetate (238 mg, 2.9 mmoles) and ethanol (4 ml) was heated under reflux in a nitrogen atmosphere with magnetic stirring for 2 hr. The mixture was partitioned between ethyl acetate and water. The aqueous phase was extracted twice with ethyl acetate. The combined ethyl acetate phases were washed with water, 10% NaHCO3 solution, and saturated NaCl solution, and dried (MgSO4). Evaporation in vacuo and purification by chromatography (silica gel, 4:1 hexane-ethyl acetate) gave the title compound as a colorless solid.

reactant | 3-(3-phenyl-7-isobutyl-(2H-benzofuran-6-yloxy)butyloxy)-phenyl acetate | 0.58 mmoles, 328 mg | C(C)(=O)OC1=CC(=CC=C1)OCCC(COC1=C(C2=C(CCO2)C=C1)CC(C)C)C1=CC=CC=C1 | C30H34O5
reactant | hydroxylamine hydrochloride | 2.9 mmoles, 202 mg | Cl.NO
reactant | sodium acetate | 2.9 mmoles, 238 mg | C(C)(=O)[O-].[Na+]
reactant | ethanol | 4 ml | C(C)O | C2H6O
product | 3-Chloro-4-(3-(3-phenyl-7-isobutyl-2H-benzofuran-6-yloxy)butyloxy)-phenyl acetic acid | ClC=1C=C(C=CC1OCCC(C)OC1=C(C2=C(C(CO2)C2=CC=CC=C2)C=C1)CC(C)C)CC(=O)O | C30H33ClO5
